US06096735
2-[4-(2-Methylbenzoyl)phenyl]-4,4-dimethyl-2-oxazoline (2.86 g) and 4.5M hydrochloric acid (150 ml) are refluxed for 8 hours. The mixture is cooled to room temperature, and thereto is added water. The precipitates are collected by filtration to give 4-(2-methylbenzoyl)benzoic acid (2.23 g) as white powder.

reactant | 2-[4-(2-Methylbenzoyl)phenyl]-4,4-dimethyl-2-oxazoline | 2.86 g | CC1=C(C(=O)C2=CC=C(C=C2)C=2OCC(N2)(C)C)C=CC=C1 | C19H19NO2
reactant | hydrochloric acid | 4.5M, 150 ml | Cl | ClH
reactant | water | O | H2O
product | 4-(2-methylbenzoyl)benzoic acid | 2.23 g | CC1=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=CC=C1 | C15H12O3
